US07115597B2
2-[6-(4-Acetyl-piperazin-1-yl)-pyrimidin-4-ylamino]-thiazole-5-carbonitrile (22-5)
1-[4-(6-Amino-pyrimidin-4-yl)-piperazin-1-yl]-ethanone TFA salt (72 mg, 0.22 mmol) was stirred in anhydrous THF under N2. Sodium hydride (26 mg, 60% dispersion, 0.65 mmol) was added followed by the addition of 2-chlorothiazole-5-carbonitrile (62 mg, 0.43 mmol). The reaction was heated to reflux and after 30 minutes additional 2-chloro-thiazole-5-carbonitrile (85 mg, 0.59 mmol) was added. After a total of 1.5 hours, the reaction was cooled to room temperature, diluted with water and the bulk of the tHF was removed in vacuo. The resulting mixture was adjusted to pH 7 with 1 M HCl (aq). The resulting precipitate was filtered, washed with water and after air drying was washed with hexane. 1H-NMR (400 MHz, DMSO) 12.11 (1H, s), 8.45 (1H, s), 8.26 (1H, s), 6.23 (1H, s), 3.62–3.55 (m, 8H), 2.05 (s, 3H). M+1=330.2.

reactant | 1-[4-(6-Amino-pyrimidin-4-yl)-piperazin-1-yl]-ethanone TFA salt | 0.22 mmol, 72 mg | OC(=O)C(F)(F)F.NC1=CC(=NC=N1)N1CCN(CC1)C(C)=O
reactant | Sodium hydride | 0.65 mmol, 26 mg | [H-].[Na+]
reactant | 2-chlorothiazole-5-carbonitrile | 0.43 mmol, 62 mg | ClC=1SC(=CN1)C#N | C4HClN2S
reactant | 2-chloro-thiazole-5-carbonitrile | 0.59 mmol, 85 mg | ClC=1SC(=CN1)C#N | C4HClN2S
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-[6-(4-Acetyl-piperazin-1-yl)-pyrimidin-4-ylamino]-thiazole-5-carbonitrile | C(C)(=O)N1CCN(CC1)C1=CC(=NC=N1)NC=1SC(=CN1)C#N | C14H15N7OS
